US09034900B2
Step 1: 1-(2-bromo-4-ethylsulfonylphenoxy)-2,4-difluorobenzene
2-bromo-1-fluoro-4-ethylsulfonylbenzene (130 mg, 0.49 mmol), 2,4-difluorophenol (78 mg, 0.60 mmol) and Cs2CO3 (478 mg, 1.47 mmol) in DMSO (5 mL) were heated at 100° C. for 12 h. EA extractive work up gave the title compound (150 mg, yield: 80.5%) as a grey solid. 1H NMR (CDCl3, 400 MHz) δ 8.18 (d, J=2.0 Hz, 1H), δ 7.75 (dd, J1=8.4 Hz, J2=1.6 Hz, 1H), 7.22-7.16 (m, 1H), 7.06-6.95 (m, 2H), 6.80 (d, J=8.8 Hz, 1H), 3.16 (q, J=7.2 Hz, 2H), 1.33 (t, J=7.6 Hz, 3H). LCMS: 395.8 (M+NH4)+.

reactant | 2-bromo-1-fluoro-4-ethylsulfonylbenzene | 0.49 mmol, 130 mg | BrC1=C(C=CC(=C1)S(=O)(=O)CC)F | C8H8BrFO2S
reactant | 2,4-difluorophenol | 0.60 mmol, 78 mg | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | Cs2CO3 | 1.47 mmol, 478 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-(2-bromo-4-ethylsulfonylphenoxy)-2,4-difluorobenzene | 150 mg, yield: 80.5% | BrC1=C(OC2=C(C=C(C=C2)F)F)C=CC(=C1)S(=O)(=O)CC | C14H11BrF2O3S
